US09376436B2
To a solution of (5-fluoro-2,3-dihydrobenzofuran-6-yl)trifluoromethanesulfonate (which may be prepared as described in Description 96) (130.6 mg, 0.4600 mmol) in dry DMF (4 mL) was added potassium acetate (141.3 mg, 1.37 mmol) and 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (150.64 mg, 0.5900 mmol). The reaction was degassed by evacuation of the flask and refilling with nitrogen 6 times. To the reaction was then added Pd(dppf)Cl2.CH2Cl2 (55.9 mg, 0.0700 mmol) and the reaction was heated at 90° C. for 16 hours. The reaction was partitioned between EtOAc (90 mL) and water (90 mL), and the organics were separated, washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was then loaded onto silica (25 g, SNAP cartridge), which was eluted with a gradient of EtOAc:isohexane from 0% to 80%. Fractions containing desired product were combined and concentrated in vacuo to give 2-(5-fluoro-2,3-dihydrobenzofuran-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (D97) (15.2 mg, 0.0576 mmol, 12.6% yield) as a colourless oil;

reactant | (5-fluoro-2,3-dihydrobenzofuran-6-yl)trifluoromethanesulfonate | 0.4600 mmol, 130.6 mg | FC=1C(=CC2=C(CCO2)C1)OS(=O)(=O)C(F)(F)F | C9H6F4O4S
reactant | potassium acetate | 1.37 mmol, 141.3 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 0.5900 mmol, 150.64 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH2Cl2 | 0.0700 mmol, 55.9 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(5-fluoro-2,3-dihydrobenzofuran-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.0576 mmol, 15.2 mg, 12.6% yield | FC=1C(=CC2=C(CCO2)C1)B1OC(C(O1)(C)C)(C)C | C14H18BFO3
